US07915261B2
1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (62 mg), 1-hydroxybenzotriazole (43 mg), ammonium chloride (43 mg) and TEA (0.038 ml) were added to a DMF (3.0 ml) solution of 5-[({4-[2-(3-cyanophenyl)ethyl]-1-piperidyl}carbonyl)oxy]nicotinic acid (102 mg), followed by stirring overnight at room temperature. An aqueous saturated sodium hydrogencarbonate solution was added to the reaction liquid, and the crystal precipitated was collected by filtration and dried. The resulting crystal was recrystallized from EtOAc/hexane to give 5-(aminocarbonyl)-3-pyridyl 4-[2-(3-cyanophenyl)ethyl]-1-piperidinecarboxylate (81 mg).

reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 62 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 43 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonium chloride | 43 mg | [Cl-].[NH4+]
reactant | 5-[({4-[2-(3-cyanophenyl)ethyl]-1-piperidyl}carbonyl)oxy]nicotinic acid | 102 mg | C(#N)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)O)C1 | C21H21N3O4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 5-(aminocarbonyl)-3-pyridyl 4-[2-(3-cyanophenyl)ethyl]-1-piperidinecarboxylate | 81 mg | C(#N)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C1)C(=O)N | C21H22N4O3
